US07786132B2
(ii) 1-{2-[4-(5-Chlorothiophen-2-yl)-5-(2-oxoindolin-6-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione
The title compound was prepared from 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione and 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one in a manner analogous to Example 269. MS (M+H)+ 497.

reactant | 1-{2-[5-bromo-4-(5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1)Cl | C15H15BrClN5O2S
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | CC1(OB(OC1(C)C)C1=CC=C2CC(NC2=C1)=O)C | C14H18BNO3
product | 1-{2-[4-(5-Chlorothiophen-2-yl)-5-(2-oxoindolin-6-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | ClC1=CC=C(S1)C1=NC(=NC=C1C1=CC=C2CC(NC2=C1)=O)NCCN1C(NC(C1(C)C)=O)=O | C23H21ClN6O3S
